US07452911B2
6a 2-(5-iodo-indol-1-yl)-ethanol
Under an N2 atmosphere 30 g (121 mmol) 5-iodoindole are added to a suspension of 27.1 g (484 mmol) KOH in 150 mL DMSO. The reaction mixture is kept for 1 h at RT, cooled to 0° C. with ice water, 9.7 mL (145 mmol) of 2-chloroethanol in 30 mL DMSO are slowly added dropwise and stirred for 4.5 h at RT. The reaction mixture is combined with 1 L EtOAc, washed four times with in each case 800 mL water and once with 400 mL saturated NaCl solution and the organic phase is dried over Na2SO4. After the desiccant and solvent have been eliminated the residue is purified by chromatography (silica gel, cyc/EtOAc 3:1).

reactant | 5-iodoindole | 121 mmol, 30 g | IC=1C=C2C=CNC2=CC1 | C8H6IN
reactant | KOH | 484 mmol, 27.1 g | [OH-].[K+]
reactant | 2-chloroethanol | 145 mmol, 9.7 mL | ClCCO | C2H5ClO
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 2-(5-iodo-indol-1-yl)-ethanol | IC=1C=C2C=CN(C2=CC1)CCO | C10H10INO
